US06849632B2
C. Preparation of a compound of (2S)-1-((2S)-2-methylpiperazinyl)-3-(2-methylbenzothiazol-6-yloxy)propan-2-ol, a compound of formula (E)
tert-Butyl (3S)-4-[(2S)-2-hydroxy-3-(2-methylbenzothiazol-6-yloxy)propyl]-3-methylpiperazinecarboxylate (3 g) in trifluoroacetic acid (50 ml) was stirred at room temperature for 72 hours. The TFA was removed by evaporation under reduced pressure and the residue was dissolved in 50 ml of MEOH. The pH adjusted to between pH 8-pH 9 using tris-resin(Argonaut) rendering (2S)-1-((2S)-2-methylpiperazinyl)-3-(2-methylbenzothiazol-6-yloxy)propan-2-ol, which was used without further purification.

reactant | tert-Butyl (3S)-4-[(2S)-2-hydroxy-3-(2-methylbenzothiazol-6-yloxy)propyl]-3-methylpiperazinecarboxylate | 3 g | O[C@@H](CN1[C@H](CN(CC1)C(=O)OC(C)(C)C)C)COC1=CC2=C(N=C(S2)C)C=C1 | C21H31N3O4S
solvent | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (2S)-1-((2S)-2-methylpiperazinyl)-3-(2-methylbenzothiazol-6-yloxy)propan-2-ol | C[C@@H]1N(CCNC1)C[C@@H](COC1=CC2=C(N=C(S2)C)C=C1)O | C16H23N3O2S
